US07569559B2
Commercially available benzyl chloride and sodium ethanethiolate are subjected to a nucleophilic substitution reaction to produce PhCH2SC2H5 after isolation and purification. In a Parr pressure vessel, 2.0 g (0.013 moles) of PhCH2SC2H5 is added to 200 ml of t-butanol. With stirring, 2.94 g (0.026 moles) of potassium t-butoxide is slowly added. The head space is flushed with an inert gas before exposure to 60 psi NO gas. The reaction is allowed to proceed at room temperature for 24 hours or until no further consumption of NO gas is observed. The resulting diazeniumdiolate salt is filtered, washed with t-butanol and diethyl ether, and vacuum dried before analysis.

reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | sodium ethanethiolate | C(C)[S-].[Na+]
product | PhCH2SC2H5 | C1(=CC=CC=C1)CSCC | C9H12S
